US04889947
7,8-Dimethyl-4,4a,5,6-tetrahydro-2(3H)-naphthalenone
To a stirred solution of lithium diisopropylamide (LDA) (22 mmol) in THF (200 ml) at -78° C. was added a solution of 2,3-dimethylcyclohexenone (2.48 g, 20 mmol) in THF (50 ml). The mixture was warmed to 25° C., and the solvent and the amine were removed under vacuum. The resulting solid was dissolved in THF (400 ml) and the solution cooled to -78° C. To this solution was added MVK (1.8 ml, 22 mmol) in THF (100 ml) over 10 min. The resulting mixture was stirred 12 hr at room temperature, then worked up. Removal of solvent yielded the dione as a yellow oil (2.8 g, 60%).

reactant | lithium diisopropylamide | 22 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3-dimethylcyclohexenone | 20 mmol, 2.48 g | CC=1C(CCCC1C)=O | C8H12O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 7,8-Dimethyl-4,4a,5,6-tetrahydro-2(3H)-naphthalenone | 2.8 g, 60% | CC=1CCC2CCC(C=C2C1C)=O | C12H16O
